US05026856
7-(5-ethylamino-2-isoindolinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
141 mg of 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 253 mg of 5-ethylaminoisoindoline, and 1.5 ml of anhydrous DMF were processed in the same manner as in Example 2 to produce 128 mg of the target compound.

reactant | 1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 141 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 5-ethylaminoisoindoline | 253 mg | C(C)NC=1C=C2CNCC2=CC1 | C10H14N2
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 7-(5-ethylamino-2-isoindolinyl)-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 128 mg | C(C)NC=1C=C2CN(CC2=CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F | C23H21F2N3O3
